US08017602B2
Step ii) tert-Butyl 2-(3-(3-bromophenethoxy)-N-cyclohexylpropanamido)ethyl(2-(5-hydroxy-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-8-yl)ethyl)carbamate
To a stirred solution of 3-(3-bromophenethoxy)-N-cyclohexyl-N-(2-oxoethyl)propanamide (1.5 g) in NMP (10 mL) and water (0.5 mL) was added 8-(2-aminoethyl)-5-hydroxy-2H-benzo[b][1,4]oxazin-3(4H)-one hydrochloride (1.02 g) and sodium bicarbonate (0.35 g). The mixture was stirred for 5 min before the addition of sodium triacetoxyborohydride (1.20 g). The reaction was stirred overnight before the addition of sodium hydrogen carbonate solution, which was then extracted three times with DCM. The mixture was evaporated to afford the product in NMP, which was diluted with 50 mL of DCM followed by the addition of BOC anhydride (0.88 mL) and triethylamine (0.53 mL). The reaction was stirred overnight before the addition of water, which was extracted once with DCM. The DCM phase was washed twice with water, twice with brine, dried over sodium sulphate, filtered and the solvent removed to afford product contaminated with NMP. Ethyl acetate was added which was subsequently washed twice with water, twice with brine, dried over sodium sulphate, filtered and the solvent removed. The crude product was purified on silica using 40% Ethyl acetate/isohexane to afford a pale brown/yellow oil (700 mg), which consisted of a mixture of mono and di-protected material. This material was used in the next step without further purification.

reactant | 3-(3-bromophenethoxy)-N-cyclohexyl-N-(2-oxoethyl)propanamide | 1.5 g | BrC=1C=C(CCOCCC(=O)N(CC=O)C2CCCCC2)C=CC1 | C19H26BrNO3
reactant | 8-(2-aminoethyl)-5-hydroxy-2H-benzo[b][1,4]oxazin-3(4H)-one hydrochloride | 1.02 g | Cl.NCCC1=CC=C(C2=C1OCC(N2)=O)O
reactant | sodium bicarbonate | 0.35 g | C([O-])(O)=O.[Na+]
reactant | sodium triacetoxyborohydride | 1.20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | BOC anhydride | 0.88 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | water | 0.5 mL | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.53 mL | C(C)N(CC)CC | C6H15N
product | tert-Butyl 2-(3-(3-bromophenethoxy)-N-cyclohexylpropanamido)ethyl(2-(5-hydroxy-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-8-yl)ethyl)carbamate | 700 mg | BrC=1C=C(CCOCCC(=O)N(C2CCCCC2)CCN(C(OC(C)(C)C)=O)CCC2=CC=C(C3=C2OCC(N3)=O)O)C=CC1 | C34H46BrN3O7
